US04146715
2-Chloro-9-(2-hydroxyethoxymethyl)adenine (0.83g) was added with stirring to 95% hydrazine (11ml) and the resulting solution stirred 1 hour under nitrogen. Excess hydrazine was removed by distillation in a rotary evaporator at a bath temperature of 30° C. followed by co-evaporation twice with ethyl acetate. The residue was thoroughly triturated with methanol to give a quantitative yield (0.8g) of white to cream colored-2-hydrazino-9-(2-hydroxyethoxymethyl)adenine, m.p. 220°-222° C.

reactant | 2-Chloro-9-(2-hydroxyethoxymethyl)adenine | 0.83g | ClC1=NC(=C2N=CN(C2=N1)COCCO)N | C8H10ClN5O2
reactant | hydrazine | 11ml | NN | H4N2
product | 2-hydrazino-9-(2-hydroxyethoxymethyl)adenine | quantitative yield | N(N)C1=NC(=C2N=CN(C2=N1)COCCO)N | C8H13N7O2
